US06803457B1
2-[5-Chloro-2-(pyridin-3-ylmethoxy)benzyl]isoindole-1,3-dione
To a solution of 2-[5-chloro-2-hydroxy benzyl]isoindole-1,3-dione (300 mg, 1.04 mmol), and 3-picolylchloride hydrochloride (171 mg, 1.04 mmol) in anhydrous N,N-dimethylformamide (10 mL), cooled to 0° C., was added a 60% dispersion of sodium hydride in oil (104 mg, 2.6 mmol). The reaction was stirred at room temperature under anhydrous conditions for 15 h. The reaction was quenched by the addition of H2O (5 mL) and then poured into a separatory funnel, and aqueous saturated NaHCO3 solution (50 mL) was added. The aqueous layer was extracted 3×50 mL with CH2Cl2. The organics were combined and washed with saturated aqueous NaCl solution (100 mL), dried over MgSO4, filtered, and concentrated on a rotary evaporator triturated with ether, filtered and dried to yield the title compound.

reactant | 2-[5-chloro-2-hydroxy benzyl]isoindole-1,3-dione | 1.04 mmol, 300 mg | ClC=1C=CC(=C(CN2C(C3=CC=CC=C3C2=O)=O)C1)O | C15H10ClNO3
reactant | 3-picolylchloride hydrochloride | 1.04 mmol, 171 mg | Cl.N1=CC(=CC=C1)CCl
reactant | sodium hydride | [H-].[Na+]
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 2-[5-Chloro-2-(pyridin-3-ylmethoxy)benzyl]isoindole-1,3-dione | ClC=1C=CC(=C(CN2C(C3=CC=CC=C3C2=O)=O)C1)OCC=1C=NC=CC1 | C21H15ClN2O3
